Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
morphine / codeine
 
Attending: ___
 
Chief Complaint:
subdural hematoma

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
 MS ___ is a ___ F who was inpatient at the geriatric
psych unit at ___ when she sustained a fall with
headstrike around 6pm pn ___. She had been admitted to 
___
over the weekend for medication adjustments. Her family had
noticed that she had experienced a frequent number of falls
recently and was increasingly confused at night with vivid
hallucinations.  
She was transferred to ___ for neurosurgical evaluation. 

 
Past Medical History:
___  
Vascular dementia  
Anxiety  
Several recent UTIs 
 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
Exam on Admission
Porteguese primarily speaking
Alert and oriented to person, place only.
Face symmetrical, tongue midline. Speech fluent. 
EOMI, PERRL ___.
Motor
  Grip  Bi  Tri  Delt  IP  Quad  Ham  Gastoc  AT ___
(left Bi and tri appear full, but are pain limited secondary to 
a
radial fracture).

Exam on Discharge
***
 
Pertinent Results:
___ NCHCT
The left parafalcine subdural hemorrhage is slightly larger 
compared with the immediate prior study with no significant mass 
effect or surrounding edema.  
The subdural hematoma extends inferiorly to the level of the 
tentorium. No additional sites of hemorrhage are identified. The 
ventricles and sulci are normal in size and configuration. There 
is no evidence of infarction or mass. 
  
No osseous abnormalities seen.  Trace mucosal thickening of the 
right 
maxillary sinus, and fluid-filled sphenoid sinuses are 
unchanged. The orbits are unremarkable. 
  
___
Degenerative changes. Likely old fracture of distal radius. 
Acute injury 
either at the level of the elbow joint or wrist cannot be 
excluded on these views, recommend clinical correlation consider 
dedicated elbow and/or wrist radiographs depending on site of 
symptoms. 

___ EKG
Probable sinus tachycardia with baseline artifact. Non-specific 
ST-T wave 
changes most pronounced in the inferior and anteroseptal leads. 
Compared to 
the previous tracing of ___ the heart rate has increased. The 
findings are 
otherwise similar. 

 
Brief Hospital Course:
Ms ___ was transferred from ___ psych unit after 
a fall. NCHCT reportedly revealed a small SDH. Per report of OSH 
patient also had L radial fx. CT uploaded showed small 
parafalcine hemorrhage.

On ___ Patient was evaluated by ___ and OT who recommend rehab. A 
Repeat NCHCT was stable. A repeat xray of the radius revealed an 
old healed fracture but no acute injury. 

On ___ Patient was neurologically stable pending rehab 
placement. Given 500cc bolus for low urine output and poor PO 
intake.  

On ___, the patient became more agitated, requiring ativan in 
the evening with improvement in her mental status. 

On ___, the patient was alert and oriented to person and place, 
cooperative with exam. Agitation was resolved. 

On ___, the patient had reported foul-smelling urine. was 
otherwise stable. 

0n ___, exam was stable, patient was straight-cathed for 
urinalysis (given ongoing urinary incontinence) which was 
reassuring. Her labs however were notable for hypokalemia (2.8). 
An EKG was performed which was reassuring. Her K, Mg, Phos were 
repleted 

0n ___: exam was stable, patient continued to have poor PO 
intake, refusing some PO meds. K, Phos repleted. 

On ___ Electrolytes were all normal. She was evaluated by the 
geriactrics service who recommended decreasing remeron dose to 
stimulate appetite, decreased PRN IV ativan, and stopping 
keppra. They have also recommend ___ eval as an 
outpatient. Given patient has recieved a 8 day course of keppra 
this is quite reasonable. RN report concern for a day of loose 
stools. Patient has never been febrile and WBC count has never 
been elevated. Given these things cdiff is very unlikely. 
Patient was offered bed at rehab. She was discharged in stable 
condition with instructions for follow up. 
 
Medications on Admission:
seroquel, ativan, remeron, prilosec, sinemet, colace

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain 
2. Bisacodyl 10 mg PO DAILY 
3. Carbidopa-Levodopa (___) 2 TAB PO QID 
4. Docusate Sodium 100 mg PO BID 
5. Lorazepam 0.5 mg PO BID:PRN anxiety, insomnia 
6. Omeprazole 20 mg PO DAILY 
7. QUEtiapine Fumarate 25 mg PO TID:PRN agitation 
8. QUEtiapine Fumarate 12.5 mg PO BID 
9. Senna 8.6 mg PO BID 
10. Mirtazapine 15 mg PO QHS 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Subdural hematoma

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Activity

·     We recommend that you avoid heavy lifting, running, 
climbing, or other strenuous exercise until your follow-up 
appointment.

·     You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.

·     No driving while taking any narcotic or sedating 
medication. 

·     If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 

·     No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications

·     Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 

·     You may use Acetaminophen (Tylenol) for minor discomfort 
if you are not otherwise restricted from taking this medication.

What You ___ Experience:

·     You may have difficulty paying attention, concentrating, 
and remembering new information.

·     Emotional and/or behavioral difficulties are common. 

·     Feeling more tired, restlessness, irritability, and mood 
swings are also common.

·     Constipation is common. Be sure to drink plenty of fluids 
and eat a high-fiber diet. If you are taking narcotics 
(prescription pain medications), try an over-the-counter stool 
softener.

 

Headaches:

·     Headache is one of the most common symptom after a brain 
bleed. 

·     Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 

·     Mild pain medications may be helpful with these headaches 
but avoid taking pain medications on a daily basis unless 
prescribed by your doctor. 

·     There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


When to Call Your Doctor at ___ for:

·     Severe pain, swelling, redness or drainage from the 
incision site. 

·     Fever greater than 101.5 degrees Fahrenheit

·     Nausea and/or vomiting

·     Extreme sleepiness and not being able to stay awake

·     Severe headaches not relieved by pain relievers

·     Seizures

·     Any new problems with your vision or ability to speak

·     Weakness or changes in sensation in your face, arms, or 
leg

 

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:

·     Sudden numbness or weakness in the face, arm, or leg

·     Sudden confusion or trouble speaking or understanding

·     Sudden trouble walking, dizziness, or loss of balance or 
coordination

·     Sudden severe headaches with no known reason

 
Followup Instructions:
___